US04211783
A solution of 39.2 g. of zinc dust, 157 g. of triphenylphosphene and 200 g. of carbon tetrabromide in 500 ml. methylene chloride is stirred at room temperature for 25 hours. To the resultant solution is added 50 g. of 4-methoxyhydrocinnamaldehyde and stirring is continued for an additional 2 hours. The solution is diluted with 2 l. of pentane and the precipitate is filtered. The precipitate is stirred with 100 ml. methylene chloride, diluted with 400 ml. pentane, and again filtered. The organic solutions are combined and evaporated to yield 1,1-dibromo-4-(4-methoxyphenyl)-1-butene as a light yellow oil.

reactant | carbon tetrabromide | C(Br)(Br)(Br)Br | CBr4
reactant | 4-methoxyhydrocinnamaldehyde | COC1=CC=C(CCC=O)C=C1 | C10H12O2
catalyst | zinc | [Zn] | Zn
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,1-dibromo-4-(4-methoxyphenyl)-1-butene | BrC(=CCCC1=CC=C(C=C1)OC)Br | C11H12Br2O
